US05770108
Methoxymethyl triphenylphosphonium chloride of 34.28 g was suspended in anhydrous ether of 190 ml, and potassium t-butoxide of 11.22 g was added thereto. A solution prepared by dissolving 4-n-octyloxybenzaldehyde of 22.26 g in anhydrous ether of 110 ml was added thereto, and the solution was stirred at room temperature for 12 hours. Resulting triphenylphosphine oxide was removed by filtration, and the filtrate was poured into ice and water of 300 ml. An ether layer was separated and washed with water, followed by drying the ether layer with anhydrous sodium sulfate. Then, ether was distilled off to obtain crude (4'-n-octyloxyphenyl)-2-methoxyethylene. Further, the crude product was refined by distillation under reduced pressure to obtain (4'-n-octyloxyphenyl)-2-methoxyethylene of 25.4 g. Next, a mixed solution of triethyl orthoformate of 240 g and boron trifluoride ethyl ether complex salt of 6.53 g was cooled down to 0°C., and (4'-n-octyloxyphenyl)-2-methoxyethylene of 25.39 g was added thereto. Then, after stirring the solution at room temperature for 12 hours, toluene of 200 ml and a 10 weight % sodium hydrogencarbonate aqueous solution of 150 ml were added and mixed, and then a toluene layer was separated. The toluene layer was dried with anhydrous sodium sulfate, and then toluene was distilled off to obtain 4-n-octyloxyphenyl malonotetraethyl acetal. This 4-n-octyloxyphenyl malonotetraethyl acetal of 21.2 g was added to water of 12 ml and p-tolenesulfonic acid of 0.05 g, and the reaction was carried out at 80° C. for 3 hours. After cooling the solution down to room temperature, sodium carbonate of 0.52 g was added for neutralization, and then the product was extracted with toluene. The extract was washed with a 10 weight % sodium hydroxide aqueous solution and further washed with water. Then, a toluene layer was separated and dried with anhydrous sodium sulfate, and toluene was distilled off to obtain α-(4-n-octyloxyphenyl)-β-ethoxyacrolein of 16.62 g.

reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | (4'-n-octyloxyphenyl)-2-methoxyethylene | C(CCCCCCC)OC1=CC=C(C=C1)C=COC | C17H26O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | α-(4-n-octyloxyphenyl)-β-ethoxyacrolein | C(CCCCCCC)OC1=CC=C(C=C1)CCOC(=O)C=C | C19H28O3
